Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
lovastatin / enoxaparin
 
Attending: ___
 
Chief Complaint:
Slurred speech and vertigo
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Mr. ___ is a ___ right-handed male with h/o 
afib on coumadin, HTN, HLD, CAD s/p 5-vessel CABG, TIA/CVA in 
___ s/p R CEA, who was transferred from ___ 
with concern for vertigo, dysarthria, right-sided weakness and 
numbness with abnormal CTA with bilateral vertebral artery 
occlusions.  

He was in his USOH until last night.  He was seen well by his 
son around 11:30pm last night. This morning he woke up around 
8:45am and felt unsteady with some right leg weakness and right 
hand and leg numbness. He also complained of vertigo and 
difficulty walking.  He called his son who said his speech 
sounded slurred so he should go to the ED.  

He was taken to ___ where he was elevated by 
TeleStroke and found to have an NIHSS 2 for dysarthria and 
right-sided sensory changes.  He had a NCHCT that was 
unremarkable and a CTA that was concerning for bilateral 
vertebral artery occlusions noted at different levels. Not a tPA 
candidate due to full anticoagulation and mild symptoms.  INR at 
OSH 2.7.

He lives with his son, gets some help with medication management 
and higher level functions, but dresses and showers himself, 
cleans around the house.  He uses a walker for long distances, 
otherwise ambulates independently.  

On neuro ROS, he recalls he had a headache a few days ago for 
which he had to lay down, but otherwise had been fine this week. 
 He denies any head trauma, nausea, vomiting, urinary or bowel 
incontinence.  No loss of vision, blurred vision, diplopia, 
dysphagia. No bowel or bladder incontinence or retention.  

On general review of systems, the patient denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.   

 
Past Medical History:
Afib on coumadin
HTN
HLD
CAD s/p 5-vessel CABG in ___
TIA/CVA in ___ s/p R CEA
schizophrenia
right bundle branch block,
sick sinus syndrome s/p pacemaker 
 
Social History:
___
Family History:
No known family h/o early strokes 
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION: 
Physical Exam:
Vitals: T 97.8, HR 60, BP 152/82, RR 18, 92% RA
General: awake, alert, sitting up in bed, NAD
HEENT: NC/AT, wearing glasses, no scleral icterus noted, MMM, no 
lesions noted in oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, well perfused 
Abdomen: soft, NT/ND 
Skin: no rashes or significant lesions noted

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history 
without difficulty. Attentive. Language is fluent with intact 
repetition and comprehension. Normal prosody. There were no 
paraphasic errors. Patient was able to name both high and low 
frequency objects.  Able to read without difficulty. Speech was 
dysarthric. Able to follow both midline and appendicular 
commands. There was no evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. No adventitious movements, such as tremor, noted.  
Strength ___ except RLE with 4+/5 strength at IP, quad, ham, TA 
and gastroc (baseline per patient from prior leg injury).  
 
-Sensory: No deficits to light touch, pinprick, temperature 
throughout. No extinction to DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2       1     1
R  2  2    2      -     1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF.

-Gait: Good initiation. Narrow-based, slightly shuffling gait, 
no veering noted. 

DISCHARGE PHYSICAL EXAMINATION 

Physical Exam:
Vitals: T 98.4 F, BP 178/85, HR 61, RR 22, O2sat 94% on Room Air
General: Awake, alert, and in no acute distress. Wears glasses. 
HEENT: Clear oropharynx, MMM
Neck: supple, no thyromegaly, no JVD, decreased ROM
Pulmonary: equal expansion of lungs bilaterally
Abdomen: soft, nontender
Skin: no significant lesions noted

Neurologic:

-Mental Status: AAOX3 (person, place, and full date). Fluency of 
language is preserved with intact naming and repetition. Reading 
is preserved and speech is dysarthric. Able to follow multi-step 
commands, both axial and appendicular. No neglect or apraxia.  

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm. EOMI with double vision on 
sustained leftward gaze (not reproducible on later exam) 
V: Facial sensation reduced to light touch and pinprick on the 
right side of face (V1 distribution).
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly decreased
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. Mild RT pronation w/o 
drift. Bilateral action tremor worse on LT than RT. Strength ___ 
in bilateral upper extremities with the exception of bilateral 
interosei  ___. RT IP was pain limited, otherwise full. LT IP 
was ___.   
 
-Sensory: Decreased sensation to PP over BLE in a stocking 
pattern consistent with peripheral neuropathy. Also observed 
hyperesthesia over this area. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    -   -
R  2  2    2    -   -
Plantar response was flexor bilaterally.

-Coordination: No dysmetria on FNF.

-Gait: Walked with the assistance of walker and ___ supervision. 
 
Pertinent Results:
LDL: 64 
TSH: 2.8
Hemoglobin A1c: Pending

CTA HEAD AND NECK ___:
1. Complete occlusion of the left V1 and proximal V2 segments 
from the origin of the vertebral artery to the level of C6, 
where there is reconstitution of flow from collateral vessels. 
2. 50% stenosis by NASCET criteria of the proximal left internal 
carotid 
artery due to partially calcified atherosclerotic plaque. 
Otherwise extensive moderate atherosclerotic disease. 
3. The great vessels of the head and neck are otherwise patent 
without 
stenosis, occlusion, dissection, or aneurysm greater than 3 mm. 
4. No intracranial hemorrhage or loss of gray-white 
differentiation to suggest acute infarction. 
5. 4 mm right upper lobe pulmonary nodule (3:61) requires no 
further follow-up according to current ___ guidelines. 
6. Final read pending 3D reformations. 

CT HEAD ___: 
No intracranial hemorrhage or large territorial infarct.  MRI 
would be more sensitive for evaluation of acute infarct. 

 
Brief Hospital Course:
___ is a ___ right-handed man with afib on coumadin, 
HTN, HLD, CAD s/p 5-vessel CABG, TIA in ___ s/p R CEA, who was 
transferred from ___ with concern for vertigo, 
dysarthria, right-sided weakness and numbness with abnormal CTA 
with bilateral vertebral artery occlusions. Neurologic exam with 
dysarthria, RT facial decreased sensation, and gait instability. 
Stroke risk factors notable for LDL 64, A1C pending. INR 
therapeutic at 2.5. Repeat NCHCT with no acute findings, however 
CTA head and neck with bilateral vertebral artery occlusions 
complete at LT V1 and proximal V2 from origin to level of C6. 

Transitional Issues: 
# Changed ASA from 162mg daily to 81mg daily to reduce risk of 
intracranial bleeding
# Will need repeat INR at rehab 
# Will need inpatient physical therapy and occupational therapy 
# Fluphenazine 10 mg PO BID  This medication was held. Do not 
restart Fluphenazine until cleared by your PCP 
# ___ 5 mg PO DAILY  This medication was held. Do not 
restart Lisinopril until confirmed with your PCP that you are 
taking this med at home  

AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
 1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No  
 2. DVT Prophylaxis administered? (x) Yes - () No  
 3. Antithrombotic therapy administered by end of hospital day 
2? (x) Yes - () No  
 4. LDL documented? (x) Yes (LDL = 64) - () No  
 5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL   
 6. Smoking cessation counseling given? (x) Yes - () No [reason 
() non-smoker - () unable to participate]  
 7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given (verbally or 
written)? (x) Yes - () No  
 8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No  
 9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
 10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - (x) Anticoagulation] - () No  
 11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? (x) Yes - () No - () N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY 
2. Vitamin E 400 UNIT PO DAILY 
3. Allopurinol ___ mg PO DAILY 
4. Aspirin 162 mg PO DAILY 
5. Warfarin 5 mg PO 5MG DAILY EXCEPT ___ TAKES 7.5MG  
6. Diltiazem Extended-Release 240 mg PO DAILY 
7. Fluphenazine 10 mg PO BID 
8. Lisinopril 5 mg PO DAILY 
9. Vitamin D ___ UNIT PO DAILY 
10. Metoprolol Tartrate 100 mg PO BID 
11. Omeprazole 20 mg PO DAILY 
12. Rosuvastatin Calcium 20 mg PO QPM 
13. Digoxin 0.125 mg PO DAILY 
14. Warfarin 7.5 mg PO 1X/WEEK (___) 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Allopurinol ___ mg PO DAILY  
3.  Digoxin 0.125 mg PO DAILY  
4.  Diltiazem Extended-Release 240 mg PO DAILY  
5.  Ipratropium Bromide MDI 2 PUFF IH BID  
6.  Isosorbide Mononitrate (Extended Release) 30 mg PO DAILY  
7.  Metoprolol Tartrate 100 mg PO BID  
8.  Omeprazole 20 mg PO DAILY  
9.  Rosuvastatin Calcium 20 mg PO QPM  
10.  Topiramate (Topamax) 25 mg PO BID  
11.  Vitamin E 400 UNIT PO DAILY  
12.  Warfarin 5 mg PO 5MG DAILY EXCEPT ___ TAKES 7.5MG   
13.  Warfarin 7.5 mg PO 1X/WEEK (___)  
14. HELD- Fluphenazine 10 mg PO BID  This medication was held. 
Do not restart Fluphenazine until cleared by your PCP
15. HELD- Lisinopril 5 mg PO DAILY  This medication was held. Do 
not restart Lisinopril until confirmed with your PCP that you 
are taking this med at home 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
Pontine ischemic stroke secondary to bilateral vertebral artery 
occlusions

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,  
 
You were hospitalized due to symptoms of slurred speech, right 
arm/leg numbness, and right leg weakness resulting from an ACUTE 
ISCHEMIC STROKE, a condition where a blood vessel providing 
oxygen and nutrients to the brain is blocked by a clot. The 
brain is the part of your body that controls and directs all the 
other parts of your body, so damage to the brain from being 
deprived of its blood supply can result in a variety of 
symptoms.  

We imaged your brain and vessels of head and neck which showed 
evidence of blockage in two of your major neck vessels. This is 
likely due to atherosclerosis. Stroke can have many different 
causes, so we assessed you for medical conditions that might 
raise your risk of having stroke. In order to prevent future 
strokes, we plan to modify those risk factors. Your risk factors 
are:  

Smoking
High cholesterol 
High blood pressure
 
We are changing your medications as follows:  
Decreasing aspirin to 81mg daily
Continuing rosuvastatin 20mg daily
Continuing warfarin 5mg daily/7.5 on ___
  
Please take your other medications as prescribed. Please follow 
up with Neurology and your primary care physician as listed 
below. If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  
 
Sincerely,  
 
Your ___ Neurology Team  

 
Followup Instructions:
___